US08058269B2
To the solution of rac-(2-{[6-Chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-yl]-isopropyl-amino}-ethyl)-carbamic acid tert-butyl ester (100 mg, 0.2 mmol) in DCM (10 mL) was added TFA (0.3 mL). The mixture was stirred at room temperature for 2 hr, then washed with NaOH solution (5%) and water. The organic layer was dried over Na2SO4, concentrated in vacuo to give 60 mg rac-3-[(2-Amino-ethyl)-isopropyl-amino]-6-chloro-3-(3-chloro-benzyl)-1,3-dihydro-indol-2-one. MS: [M+H]+=392

reactant | rac-(2-{[6-Chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-yl]-isopropyl-amino}-ethyl)-carbamic acid tert-butyl ester | 0.2 mmol, 100 mg | C(C)(C)(C)OC(NCCN(C(C)C)C1(C(NC2=CC(=CC=C12)Cl)=O)CC1=CC(=CC=C1)Cl)=O | C25H31Cl2N3O3
reactant | TFA | 0.3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | rac-3-[(2-Amino-ethyl)-isopropyl-amino]-6-chloro-3-(3-chloro-benzyl)-1,3-dihydro-indol-2-one | 60 mg | NCCN(C1(C(NC2=CC(=CC=C12)Cl)=O)CC1=CC(=CC=C1)Cl)C(C)C | C20H23Cl2N3O
